US08629271B2
b) 3-(2-Hydroxyethyl)benzaldehyde
Manganese (IV) dioxide (2.0 g) was added to a stirred solution of 2-(3-(hydroxymethyl)phenyl)ethanol (example 20, step a) (0.50 g) in DCM (10 mL) at room temperature. After 6 h, the reaction mixture was filtered through Celite eluting with DCM. The solution was evaporated in vacuo to give the subtitled compound as a gum. Used directly. Yield 0.46 g.

reactant | 2-(3-(hydroxymethyl)phenyl)ethanol | OCC=1C=C(C=CC1)CCO | C9H12O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Manganese (IV) dioxide | 2.0 g | [O-2].[O-2].[Mn+4]
product | 3-(2-Hydroxyethyl)benzaldehyde | OCCC=1C=C(C=O)C=CC1 | C9H10O2
